US07622583B2
To a suspension of 3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-8-carboxylic acid (1.51 g, 7.8 mmol) in anhydrous THF (10 mL) was added BH3.Me2S (2 M in THF, 10 mL, 20 mmol) dropwise under nitrogen at 0° C. The resulted mixture was allowed to rise to r.t., and the reaction was continued to be carried out at this temperature overnight. Then, saturated aqueous NH4Cl (30 mL) was added in, and the resulted mixture was extracted with EtOAc (200 mL×2). The combined organic layers were washed with saturated aqueous NaHCO3 solution (30 mL), brine (30 mL), dried (Na2SO4) and filtered before it was concentrated under reduced pressure. The resulted crude product (3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-methanol, which was utilized in the following step without further purification. MS m/z: 166.2 (M+H)+.

reactant | 3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-8-carboxylic acid | 7.8 mmol, 1.51 g | O=C1COC2=C(N1)C=CC=C2C(=O)O | C9H7NO4
reactant | Me2S | 20 mmol, 2 M, 10 mL | S(C)C | C2H6S
reactant | NH4Cl | 30 mL | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-methanol | O1CCNC2=C1C(=CC=C2)CO | C9H11NO2
